US06825181B1
Step 3: Synthesis of 4-iodo-3-methoxybenzylalcohol:
1.5 g (5.14 mmol) of methyl 4-iodo-3-methoxybenzoate was dissolved in 20 ml of ethanol. 10 ml of 1 N sodium hydroxide solution was added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was dissolved in 20 ml of THF. 1.43 ml (10.3 mmol) of triethylamine and 0.54 ml (5.65 mmol) of ethyl chloroformate were added to the obtained solution, and they were stirred for one hour. The reaction mixture was filtered to obtain the precipitate. 380 mg (10.3 mmol) of sodium borohydride was added to the precipitate under cooling with ice, and they were stirred overnight. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | methyl 4-iodo-3-methoxybenzoate | 5.14 mmol, 1.5 g | IC1=C(C=C(C(=O)OC)C=C1)OC | C9H9IO3
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
reactant | triethylamine | 10.3 mmol, 1.43 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.65 mmol, 0.54 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 10.3 mmol, 380 mg | [BH4-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-iodo-3-methoxybenzylalcohol | IC1=C(C=C(CO)C=C1)OC | C8H9IO2
